US03987051
5-Benzoyl-1-(2-furanyl)methyl-3-methyl-4-piperazinyl-1H-pyrazolo[3,4-b]pyridine is treated with concentrated sulfuric acid according to the procedure of Example 4 to obtain 5-benzyl-3-methyl-4-(1-piperazinyl)-1H-pyrazolo[3,4-b]-pyridine.

reactant | 5-Benzoyl-1-(2-furanyl)methyl-3-methyl-4-piperazinyl-1H-pyrazolo[3,4-b]pyridine | C(C1=CC=CC=C1)(=O)C=1C(=C2C(=NC1)N(N=C2C)CC=2OC=CC2)N2CCNCC2 | C23H23N5O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-benzyl-3-methyl-4-(1-piperazinyl)-1H-pyrazolo[3,4-b]-pyridine | C(C1=CC=CC=C1)C=1C(=C2C(=NC1)NN=C2C)N2CCNCC2 | C18H21N5
